US04916156
(a) 4-(4-Benzylpiperidino)-2-(naphth-1-yl)butyronitrile
2 g of sodium amide are added in small portions to a solution of naphth-1-ylacetonitrile in 150 ml of anhydrous ether and the mixture is refluxed for 5 hours. 11.8 g of 2-(4-benzylpiperidino)chloroethane are then added and the mixture is refluxed again for 3.5 hours. 200 ml of water are added and the organic phase is decanted and extracted with 300 ml of 10% hydrochloric acid. The aqueous phase is washed with ether, neutralized with 30% sodium hydroxide and extracted with ether. The organic phase is washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate and the solvent is then evaporated off to give 16.4 g of the expected product.

reactant | sodium amide | 2 g | [NH2-].[Na+]
reactant | naphth-1-ylacetonitrile | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | 2-(4-benzylpiperidino)chloroethane | 11.8 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCl | C14H20ClN
reactant | water | 200 ml | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-(4-Benzylpiperidino)-2-(naphth-1-yl)butyronitrile | 16.4 g | C(C1=CC=CC=C1)C1CCN(CC1)CCC(C#N)C1=CC=CC2=CC=CC=C12 | C26H28N2
